US09029531B2
Step A: methyl 2-(4-bromopyridin-2-yl)acetate
To a mixture of 4-bromo-2-methylpyridine (1 g, 5.8 mmol) in 15 mL of anhydrous THF was added LDA (9.2 mL, 2M) dropwise at −70, stirred for 30 min dimethyl carbonate (630 mg, 7.0 mmol) was added dropwise to the above solution. After stirring for another 1 h, LC-MS found the reaction finished. It was quenched by Sat. NH4Cl solution and extracted with EtOAc. The organic layer was separated and evaporated under reduced pressure. The crude product was purified by a standard method to give desired product. LC-MS: m/z (M+H) 231.1.

reactant | 4-bromo-2-methylpyridine | 5.8 mmol, 1 g | BrC1=CC(=NC=C1)C | C6H6BrN
reactant | LDA | 2M, 9.2 mL | [Li+].CC(C)[N-]C(C)C
reactant | dimethyl carbonate | 7.0 mmol, 630 mg | C(OC)(OC)=O | C3H6O3
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | methyl 2-(4-bromopyridin-2-yl)acetate | BrC1=CC(=NC=C1)CC(=O)OC | C8H8BrNO2
